US05891899
A stirred mixture of 1-(4-cyano-2-methylphenyl)-2-(9H-xanthen-9-ylmethyl)ethanone (6.3 g, 18.6 mmol), potassium cyanide (2.2 g, 33.4 mmol) and ammonium carbonate (6.42 g, 66.9 mmol) in ethanol (9 ml) and water (9 ml) was heated at 85° C. for 2 days and then 100° C. for 3 days and finally 120° C. for 1 day in a teflon lined stainless steel sealed tube. The reaction was worked up as in Example 1 (v) to give a red oil. Purification on flash silica eluting with ethyl acetate-hexane (2:3 then 1:1 then 3:2) gave 5-(4-cyano-2-methylphenyl)-5-(9H-xanthen-9-ylmethyl)hydantoin as a pale yellow solid, m.p. 148°-152° C.

reactant | 1-(4-cyano-2-methylphenyl)-2-(9H-xanthen-9-ylmethyl)ethanone | 18.6 mmol, 6.3 g | C(#N)C1=CC(=C(C=C1)C(CCC1C2=CC=CC=C2OC=2C=CC=CC12)=O)C | C24H19NO2
reactant | potassium cyanide | 33.4 mmol, 2.2 g | [C-]#N.[K+]
reactant | ammonium carbonate | 66.9 mmol, 6.42 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | water | 9 ml | O | H2O
product | 5-(4-cyano-2-methylphenyl)-5-(9H-xanthen-9-ylmethyl)hydantoin | C(#N)C1=CC(=C(C=C1)C1(C(NC(N1)=O)=O)CC1C2=CC=CC=C2OC=2C=CC=CC12)C | C25H19N3O3
